US07893093B2
2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-(pyridin-3-ylmethylsulfanyl)-propionic acid was dissolved in DMF (5 mL) and 1-aminocyclopropanecarbonitrile (142 mg, 1.2 mmol), HATU (456 mg, 1.2 mmol) and NMM (0.44 mL, 4 mmol) were added. After stirring for 2 h at rt, saturated NH4Cl and ethyl acetate were added and stirring was continued for 20 min. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried with MgSO4 and the solvent was removed under the reduced pressure to give N-(1-cyanocyclopropyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-(pyridin-3-ylmethylsulfanyl)propionamide as an oil. The crude was used in the next step without further purification.

reactant | 2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-(pyridin-3-ylmethylsulfanyl)-propionic acid | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CSCC=1C=NC=CC1)(F)F | C17H16F4N2O2S
reactant | 1-aminocyclopropanecarbonitrile | 1.2 mmol, 142 mg | NC1(CC1)C#N | C4H6N2
reactant | HATU | 1.2 mmol, 456 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 4 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-cyanocyclopropyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-(pyridin-3-ylmethylsulfanyl)propionamide | C(#N)C1(CC1)NC([C@H](CSCC=1C=NC=CC1)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H20F4N4OS
